US05346913
To the stirred solution of 5,5-dimethylhydantoin (7 g, 54.7 mmole) in dry acetone (150 mL) under nitrogen were added potassium carbonate (10.6 g, 76.8 mmole) and benzylbromide (11.2 g, 65.9 mmole) at room temperature. The reaction mixture was refluxed for 20 hr. The reaction mixture was cooled to room temperature and the solid was filtered off by suction filtration. The titrate was concentrated on a rotary evaporator to give a residue. The residue was diluted with ethyl acetate and washed with water and brine, dried over sodium sulfate and evaporated to give 10.9 g (yield=91.3 %) of 3-benzyl-5,5-dimethylhydantoin as a white solid, mp=101°-104° C. This intermediate was subjected to the next step without further purification.

reactant | 5,5-dimethylhydantoin | 54.7 mmole, 7 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | potassium carbonate | 76.8 mmole, 10.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 65.9 mmole, 11.2 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 150 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-benzyl-5,5-dimethylhydantoin | 10.9 g, yield=91.3 % | C(C1=CC=CC=C1)N1C(NC(C1=O)(C)C)=O | C12H14N2O2
